US04906658
A. 1-(3-Fluoro-2,6-dimethoxyphenyl)propan-1-one
Trifluoromethyl hypofluorite was bubbled through a stirred mixture of 1-(2,6-dimethoxyphenyl)- Propan-1-one (9.02 g, 46.5 mmol) and Freon (40 mL) under nitrogen at -78° C. The reaction was monitored frequently by thin layer chromatography, and passage of the gas was stopped when most of the starting material had been converted to the desired product but only a trace of the less polar difluorinated derivative had been formed. The reaction was quenched by pouring the mixture into a stirred mixture of ice and methylene chloride, and the crude product from the organic layer was submitted to column chromatography (160 g of Merck AG silica gel eluted with 1:10 ethyl acetate/hexane). The title product was the second material eluted. NMR δ (250 MHz, CDCl3, TMS) 7.03 (lH, q, ArH) 6.55 (lH, q, ArH) 3.90 (3H, d, OMe) 3.77 (3H, s, OMe) 2.76 (2H, q, CH2) 1.16 (3H, t, CH3)

reactant | Trifluoromethyl hypofluorite | FOC(F)(F)F | CF4O
reactant | 1-(2,6-dimethoxyphenyl)- Propan-1-one | 46.5 mmol, 9.02 g | COC1=C(C(=CC=C1)OC)C(CC)=O | C11H14O3
product | 1-(3-Fluoro-2,6-dimethoxyphenyl)propan-1-one | FC=1C(=C(C(=CC1)OC)C(CC)=O)OC | C11H13FO3
